US05312823
c) Ethyl 5,7-dihydro-6H-pyrrolo[3,4-b]pyridine-6-carboxylate
7.7 g (35 mmol) of 2-(N-ethoxycarbonyl-N-propargylaminomethyl)-pyrimidine are refluxed for 40 hours in 150 ml of xylene. The mixture is concentrated, and the residue is recrystallised from ligroin.

reactant | 2-(N-ethoxycarbonyl-N-propargylaminomethyl)-pyrimidine | 35 mmol, 7.7 g | C(C)OC(=O)N(CC#C)CC1=NC=CC=N1 | C11H13N3O2
solvent | xylene | 150 ml | C=1(C(=CC=CC1)C)C | C8H10
product | Ethyl 5,7-dihydro-6H-pyrrolo[3,4-b]pyridine-6-carboxylate | N1=C2C(=CC=C1)CN(C2)C(=O)OCC | C10H12N2O2
